US04476307
Di-(4-fluorophenyl)amine
A mixture of p-fluoroacetanilide (76.5 g, 0.5 mole), 4-bromofluorobenzene (262.5 g, 1.5 mole), K2CO3 (76 g, 0.55 mole), Cu2Br2 (157.8 g, 0.55 mole) and N-methylpyrrolidone (600 ml) were heated at 175°-180°. After allowing low boiling material to condense off, the mixture was heated at reflux for 7 days. The mixture was cooled to 60° and quenched into a mixture of 2 liters H2O, 600 ml ethylenediamine and 1.2 liters toluene, filtered and the toluene layer separated, back-washed 2×600 ml H2O, treated with activated carbon, dried over MgSO4 and concentrated to oily solids in vacuo. The latter were taken up in 1.5 liters 10% ethanolic KOH, refluxed 18 hours and concentrated in vacuo to an oil. The oil was partitioned between 750 ml H2O and 750 ml. ether. The water layer was washed 2× 200 ml ether. The organic layers were combined, back-washed 2×200 ml H2O, treated with activated carbon, dried over MgSO4, reconcentrated to an oil (60.3 g) and distilled to yield purified title product 41.6 g, b.p. 158°-160°/2 mm.

reactant | p-fluoroacetanilide | 0.5 mole, 76.5 g | FC1=CC=C(NC(C)=O)C=C1 | C8H8FNO
reactant | 4-bromofluorobenzene | 1.5 mole, 262.5 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | K2CO3 | 0.55 mole, 76 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N-methylpyrrolidone | 600 ml | CN1C(CCC1)=O | C5H9NO
product | Di-(4-fluorophenyl)amine | FC1=CC=C(C=C1)NC1=CC=C(C=C1)F | C12H9F2N
